US06872731B2
3′-(7-Hydroxymethylimidazo[1,2-α]-pyridin3-yl)biphenyl-2-carbonitrile
3′-(7-Formylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile (140 mg, 0.43 mmol) was suspended in chloroform (4 ml) and methanol (7 ml), sodium borohydride (82 mg, 2.17 mmol) added portionwise over 5 min then the reaction was heated under reflux for 1.5 h. The mixture was evaporated to dryness, the residue diluted with water (40 ml) and extracted with chloroform (2×50 ml). The combined organics were washed with brine (40 ml), dried over anhydrous sodium sulfate and evaporated to dryness. Purification was effected by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-5%). The solid obtained was triturated with diethyl ether which gave the title compound (106 mg, 75%) as a white powder. 1H NMR (400 MHz, MeOD) δH 4.70 (2H, d, J 1), 6.97 (1H, dd, J 7 and 2), 7.55-7.60 (2H, m), 7.61-7.65 (1H, m), 7.67-7.80 (5H, m), 7.84-7.88 (2H, m), 8.65 (1H, dd, J 7 and 1); m/z (ES+) 326 (M++H).

reactant | 3′-(7-Formylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile | 0.43 mmol, 140 mg | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C21H13N3O
reactant | sodium borohydride | 2.17 mmol, 82 mg | [BH4-].[Na+]
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 7 ml | CO | CH4O
product | 3′-(7-Hydroxymethylimidazo[1,2-α]-pyridin3-yl)biphenyl-2-carbonitrile | 106 mg, 75% | OCC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C21H15N3O
